US04795809
Preparation of 5-amino-3-hydroxy-2-(2-oxoazetidin-1-yl)valeric acid
The fast moving diastereoisomer of benzyl 5-azido-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate (0.76 g, 23.9 mmol) was hydrogenated over 5% palladium on carbon catalyst in ethanol (20 ml) and water (5 ml) for one hour. The catalyst was filtered off and the filtrate evaporated. The residual gum was triturated with ether to yield, after filtration the title compound as a pale yellow solid (456 mg, 97%). The yellow coloured impurity was removed by trituration with ethyl acetate. The title compound (400 mg) was further purified by column chromatography on silica gel (Merck Art. 9385) using water/ethanol (15:85) as eluant to yield the title compound (290 mg) as a white solid containing 1/7 molar equivalent of ethanol. 6H (D2O, 400 MHz) 1.16 (t, CH3CH2OH), 1.84 (2H, m), 3.00 (2H, t, J 3.9 Hz), 3.15 (2H, m), 3.50 (1H, m), 3.58 (1H, m), 3.63 (q, CH3CH2OH), 4.07 (1H, d, J 5.4 Hz), 4.19 (1H, m), δC (D2O, 100 HMz), 31.66, 36.12, 37.61, 40.99, 63.19, 69.54, 174.79, and 174.97. Recrystallisation of a sample from aqueous methanol gave white prisms m.p. 130°-135°. νmax (KBr) 3349, 1723, 1653, 1611, 1390, 918 and 769. (Found: C, 43.93; H, 7.40; N, 12.49%. C8H14N2O4.H2O requires C, 43.63; H, 7.32; N, 12.72)

reactant | benzyl 5-azido-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate | 23.9 mmol, 0.76 g | N(=[N+]=[N-])CCC(C(C(=O)OCC1=CC=CC=C1)N1C(CC1)=O)O | C15H18N4O4
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5-amino-3-hydroxy-2-(2-oxoazetidin-1-yl)valeric acid | 290 mg | NCCC(C(C(=O)O)N1C(CC1)=O)O | C8H14N2O4
